US06143743
Part C. A solution of the MOM compound from Part B (1.84 g, 9.38 mmol) was dissolved in 1:1 THF-isopropanol (20 mL), and treated with HCl in dioxane (2.5 mL, 4 N, 10.0 mmol). The reaction was stirred at ambient temperature overnight. Aqueous workup gave sufficiently pure product, 2-(2-hydroxy-4-methylphenyl)ethanol.

reactant | HCl | Cl | ClH
reactant | dioxane | 10.0 mmol, 4 N, 2.5 mL | O1CCOCC1 | C4H8O2
reactant | THF isopropanol | 20 mL | C1CCOC1.C(C)(C)O
product | 2-(2-hydroxy-4-methylphenyl)ethanol | OC1=C(C=CC(=C1)C)CCO | C9H12O2
